US07427631B2
5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidine-2,4-dione
The title compound was prepared as described in Example 12 from racemic {2,5-dioxo-4-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidin-4-yl}methanesulfonyl chloride and 5-chloro-2-(piperidin-4-yloxy)-pyridine.

reactant | racemic {2,5-dioxo-4-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidin-4-yl}methanesulfonyl chloride | O=C1NC(C(N1)(CN1C(N(C(C1=O)(C)C)C)=O)CS(=O)(=O)Cl)=O | C11H15ClN4O6S
reactant | 5-chloro-2-(piperidin-4-yloxy)-pyridine | ClC=1C=CC(=NC1)OC1CCNCC1 | C10H13ClN2O
product | 5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidine-2,4-dione | ClC=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)CC1(C(NC(N1)=O)=O)CN1C(N(C(C1=O)(C)C)C)=O | C21H27ClN6O7S
